US07696223B2
a) 4-Acetoxy-1-benzyl-7-cyano-3-methyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to a Stille methylation step in the Example 103(b) from 4-acetoxy-1-benzyl-3-bromo-7-cyano-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, tetramethyl tin, and Pd(PPh3)2Cl2. The title compound, ESI MS (m/z): 378 (M+H)+.

reactant | 4-acetoxy-1-benzyl-3-bromo-7-cyano-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2Br)CC2=CC=CC=C2)OC(C)=O | C20H16BrN3O4
reactant | tetramethyl tin | C[Sn](C)(C)C
catalyst | Pd(PPh3)2Cl2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Acetoxy-1-benzyl-7-cyano-3-methyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2C)CC2=CC=CC=C2)OC(C)=O | C21H19N3O4
